US07560558B2
Compound 75: {5-Chloro-2-[(6,7-dimethoxy-4-quinolyl)oxy]-4-methylphenyl}(phenyl)methanone
4-Chloro-6,7-dimethoxyquinoline (100 mg), 5-chloro-2-hydroxy-4-methylbenzophenone (443 mg), and 4-dimethylaminopyridine (220 mg) were suspended in o-dichlorobenzene (1 ml), and the mixture was stirred at 140° C. for 7 hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (175 mg, yield 90%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 5-chloro-2-hydroxy-4-methylbenzophenone | 443 mg | ClC=1C(=CC(=C(C(=O)C2=CC=CC=C2)C1)O)C | C14H11ClO2
catalyst | 4-dimethylaminopyridine | 220 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | {5-Chloro-2-[(6,7-dimethoxy-4-quinolyl)oxy]-4-methylphenyl}(phenyl)methanone | 175 mg, yield 90% | ClC=1C(=CC(=C(C1)C(=O)C1=CC=CC=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C25H20ClNO4
